US06403791B1
4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid 4-nitrophenyl ester
para-Nitrophenol (0.95 g), 4-dimethylaminopyridine (80 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.4 g) were added to a stirred suspension of 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (1.6 g) in dry dichloromethane (60 ml) under an atmosphere of nitrogen. The reaction mixture was stirred at room temperature for 18 hours. Water (20 ml) was added and the aqueous layer extracted with dichloromethane (400 ml). The organic layer was washed with water (80 ml), separated, dried over magnesium sulphate, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 1:4 ethyl acetate/heptane to 1:1:2 ethyl acetate/dichloromethane/heptane afforded the title compound as a pale yellow solid (1.9 g)

reactant | para-Nitrophenol | 0.95 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.4 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid | 1.6 g | FC(OC1=CC=C(C2=C1N=C(O2)CC)C(=O)O)F | C11H9F2NO4
reactant | Water | 20 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 80 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid 4-nitrophenyl ester | 1.9 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(OC21)CC)OC(F)F | C17H12F2N2O6
